US06277877B1
C. 4-Nitro-5-chloro-1H-indole-2-carboxylic acid
The title compound was prepared by hydrolysis of ethyl 5-chloro4-nitro-1H-indole-2-carboxylate as described for the preparation of 5,7-dichloro-1H-indole-2-carboxylic acid.

reactant | ethyl 5-chloro4-nitro-1H-indole-2-carboxylate | ClC=1C(=C2C=C(NC2=CC1)C(=O)OCC)[N+](=O)[O-] | C11H9ClN2O4
reactant | 5,7-dichloro-1H-indole-2-carboxylic acid | ClC=1C=C2C=C(NC2=C(C1)Cl)C(=O)O | C9H5Cl2NO2
product | 4-Nitro-5-chloro-1H-indole-2-carboxylic acid | [N+](=O)([O-])C1=C2C=C(NC2=CC=C1Cl)C(=O)O | C9H5ClN2O4
